US07759337B2
Synthesis of 1-(6-(5-(cyclopropylcarbamoyl)-2-methylphenyl)phthalazin-1-yl)piperidine-3-carboxamide
A mixture of 1-(6-bromophthalazin-1-yl)piperidine-3-carboxamide (0.12g, 0.4 mmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) benzamide (0.1 g, 0.4 mmol), and tetrakis(triphenylphosphine)palladium (0.02 g, 0.02 mmol) in 5 mL DME/EtOH (4:1) was treated with 2 M potassium carbonate (0.5 mL, 1 mmol). The mixture resulted was warmed up to 90° C. and stirred for 1 h under nitrogen. The mixture was cooled down to room temperature, and the crude product was purified via flash chromatography (silica gel) eluting with a gradient of 4% 2 M ammonia in MeOH/DCM to 6% 2 M ammonia in MeOH/DCM to give (0.11 g) title compound as a pale yellow solid. Found MS (ES+): 430(M+H)+.

reactant | 1-(6-bromophthalazin-1-yl)piperidine-3-carboxamide | 0.4 mmol, 0.12g | BrC=1C=C2C=NN=C(C2=CC1)N1CC(CCC1)C(=O)N | C14H15BrN4O
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) benzamide | 0.4 mmol, 0.1 g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 1 mmol, 2 M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-(5-(cyclopropylcarbamoyl)-2-methylphenyl)phthalazin-1-yl)piperidine-3-carboxamide | 0.11 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=C2C=NN=C(C2=CC1)N1CC(CCC1)C(=O)N)C | C25H27N5O2
